US08168784B2
reacting the 2-(diethoxymethyl)-4,4-dimethylcyclohexanone and 4-chlorophenyl magnesium bromide to provide 1-(4-chlorophenyl)-2-(diethoxymethyl)-4,4-dimethylcyclohexanol and isolating or not isolating the 1-(4-chlorophenyl)-2-(diethoxymethyl)-4,4-dimethylcyclohexanol; and

reactant | 2-(diethoxymethyl)-4,4-dimethylcyclohexanone | C(C)OC(C1C(CCC(C1)(C)C)=O)OCC | C13H24O3
reactant | 4-chlorophenyl magnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
product | 1-(4-chlorophenyl)-2-(diethoxymethyl)-4,4-dimethylcyclohexanol | ClC1=CC=C(C=C1)C1(C(CC(CC1)(C)C)C(OCC)OCC)O | C19H29ClO3
